US06949579B2
3.3 cm3 of pyridine are added to 4 g of N-[6-bromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described previously in Example 51, in 80 cm3 of chloroform, followed by dropwise addition of 2 cm3 of bromine, and the mixture is then left stirring for 18 hours. The reaction medium is diluted with 100 cm3 of methylene chloride and the organic phase is washed with 2×100 cm3 of 10% sodium thiosulphate solution and then with 75 cm3 of saturated sodium chloride solution. The organic phase is separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The crude product is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.), then dried (90 Pa; 45° C.) to give 4.24 g of N-[5,6-dibromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide in the form of a yellow solid melting at 134° C.

reactant | pyridine | 3.3 cm3 | N1=CC=CC=C1 | C5H5N
reactant | N-[6-bromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 4 g | BrC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26BrN3O2Si
reactant | bromine | 2 cm3 | BrBr | Br2
solvent | chloroform | 80 cm3 | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 100 cm3 | C(Cl)Cl | CH2Cl2
product | N-[5,6-dibromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 4.24 g | BrC=1C=C2C(=NN(C2=CC1Br)COCC[Si](C)(C)C)NC(CCC)=O | C17H25Br2N3O2Si
